US09120747B2
(2R,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxypentanoic acid (500 mg, 1.0 mmol, 1.0 eq.) was dissolved in dry DMF (10.0 mL). The solution was cooled to 0° C. and dicesium carbonate (465 mg, 1.4 mmol, 1.1 eq.) was added. The mixture was stirred for 30 minutes and 4-chloromethyl-5-methyl-1,3-dioxol-2-one (212 mg, 1.4 mmol, 1.1 eq.) was added. The resulting mixture was stirred for an additional 1 hour at 0° C., then warmed to room temperature while stirring. The mixture was further stirred overnight. EtOAc (20 mL) was added, followed by washing with saturated aqueous NaCl (100 mL). The product was dried under vacuum and purified using reverse phase chromatography (10-70% MeCN/H2O; 0.05% TFA over 70 minutes) to yield (2R,4R)-5-biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxypentanoic acid 5-methyl-2-oxo-[1,3]dioxol-4-ylmethyl ester. This material was dissolved in 4N HCL in dioxane and stirred for 2 hours at room temperature. The material was dried under vacuum then azeotroped with toluene to yield (2R,4R)-4-amino-5-biphenyl-4-yl-2-hydroxypentanoic acid 5-methyl-2-oxo-[1,3]dioxol-4-ylmethyl ester, which was used in the next step without further purification.

reactant | (2R,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxypentanoic acid | 1.0 mmol, 500 mg, 1.0 eq. | C1(=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C22H27NO5
reactant | dicesium carbonate | 1.4 mmol, 465 mg, 1.1 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-5-methyl-1,3-dioxol-2-one | 1.4 mmol, 212 mg, 1.1 eq. | ClCC=1OC(OC1C)=O | C5H5ClO3
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | (2R,4R)-5-biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxypentanoic acid 5-methyl-2-oxo-[1,3]dioxol-4-ylmethyl ester | CC1=C(OC(O1)=O)COC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)O)=O | C27H31NO8
